US06482943B1
Morpholino-Ser(OBn) was prepared from N-Fmoc-Ser(OBn). Esterification of N-Fmoc-Ser(OBn) with isobutylene in the presence of a catalytic amount of H2SO4 afforded N-Fmoc-Ser(OBn)-OtBu. The Fmoc group was removed with piperidine in CH2Cl2 to produce Ser(OBn)-OtBu. Reaction of Ser(OBn)-OtBu with 4-morpholinecarbonyl chloride in pyridine yielded morpholino-Ser(OBn)-OtBu. Morpholino-Ser(OBn)-OtBu was hydrolyzed with TFA in CH2Cl2 to yield morpholine-Ser(OBn).

reactant | Ser(OBn)-OtBu | N[C@@H](COCC1=CC=CC=C1)C(=O)OC(C)(C)C | C14H21NO3
reactant | 4-morpholinecarbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | morpholino-Ser(OBn)-OtBu | N([C@@H](COCC1=CC=CC=C1)C(=O)OC(C)(C)C)N1CCOCC1 | C18H28N2O4
